US04385927
A mixture of 7.2 g. of p-ethoxyethoxy benzoic acid, 50 ml. of dioxane and 12.2 g. of thionyl chloride was refluxed at 70° to 80° C. for 2 hours. After the reaction, excess of thionyl chloride and the solvent were recovered by a rotary evaporator to obtain a crude p-ethoxyethoxybenzoic chloride as a residue. The crude p-ethoxyethoxybenzoic acid chloride was dissolved in 70 ml. of acetone and then, a mixture of 6.6 g. of 2,3-dichloroaniline and 4.1 g. of triethylamine was added dropwise with stirring at room temperature during 30 minutes. After the addition, the mixture was stirred at the same temperature for 2 hours. After the reaction, the reaction mixture was poured into 300 ml. of 2% hydrochloric acid and the resulting precipitate was separated by a filtration. The resulting crude product was recrystallized from toluene to obtain 9.0 g. of 4-(2-ethoxyethoxy)-N-(2,3-dichlorophenyl)-benzamide. The yield was 74.4 g. The compound had a melting point of 121.2° to 122° C.

reactant | p-ethoxyethoxy benzoic acid | C(C)OCCOC1=CC=C(C(=O)O)C=C1 | C11H14O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dioxane | O1CCOCC1 | C4H8O2
product | p-ethoxyethoxybenzoic chloride | C(C)OCCOC1=CC=C(C(=O)Cl)C=C1 | C11H13ClO3
